US07632838B2
3-chloro-4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)benzamide
A mixture of (R)-3-chloro-4-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)benzonitrile (290 mg, 0.626 mmol) in H2SO4 (3 mL) and TFA (6 mL) was stirred at rt overnight. To this was added ice-water. The precipitate was collected by filtration and washed with water to give the desired product as a white solid (267.5 mg, 89%). HRMS: calcd for C19H18ClF4N3O3S+H+, 480.07663. found (ESI-FTMS, [M+H]1+), 480.07642.

reactant | (R)-3-chloro-4-(4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methylpiperazin-1-ylsulfonyl)benzonitrile | 0.626 mmol, 290 mg | ClC=1C=C(C#N)C=CC1S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C | C19H16ClF4N3O2S
reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-chloro-4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)benzamide | 267.5 mg, 89% | ClC=1C=C(C(=O)N)C=CC1S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C | C19H18ClF4N3O3S
